US06359145B1
(2S)-2-benzyloxy-5-(1-naphthyl)pentan-3-ol was prepared from (3S)-3-benzyloxy-1,2-epoxybutane (obtained in Preparation 9) and 1-naphthylmethylmagnesium chloride (J. Am. Chem. Soc. 1943, 65, 295).

reactant | (3S)-3-benzyloxy-1,2-epoxybutane | C(C1=CC=CC=C1)O[C@H](C1CO1)C | C11H14O2
reactant | 1-naphthylmethylmagnesium chloride | C1(=CC=CC2=CC=CC=C12)C[Mg]Cl
product | (2S)-2-benzyloxy-5-(1-naphthyl)pentan-3-ol | C(C1=CC=CC=C1)O[C@@H](C)C(CCC1=CC=CC2=CC=CC=C12)O | C22H24O2
